************************************************************************
* auCdl Netlist:
* 
* Library Name:  ECE555
* Top Cell Name: NEURON
* View Name:     schematic
* Netlisted on:  Dec 10 21:20:41 2022
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: ECE555
* Cell Name:    NAND2
* View Name:    schematic
************************************************************************

.SUBCKT NAND2 IN<0> IN<1> OUT VDD VSS
*.PININFO IN<0>:I IN<1>:I OUT:O VDD:B VSS:B
Mnmos OUT IN<1> net1 VSS nmos_rvt w=108.00n l=20n nfin=4
MM1 OUT IN<1> VDD VDD pmos_rvt w=54.0n l=20n nfin=2
Mpmos OUT IN<0> VDD VDD pmos_rvt w=54.0n l=20n nfin=2
MM0 net1 IN<0> VSS VSS nmos_rvt w=108.00n l=20n nfin=4
.ENDS

************************************************************************
* Library Name: ECE555
* Cell Name:    INV_2_4
* View Name:    schematic
************************************************************************

.SUBCKT INV_2_4 IN OUT VDD VSS
*.PININFO IN:I OUT:O VDD:B VSS:B
MM0 OUT IN VSS VSS nmos_rvt w=108.00n l=20n nfin=4
MM1 OUT IN VDD VDD pmos_rvt w=54.0n l=20n nfin=2
.ENDS

************************************************************************
* Library Name: ECE555
* Cell Name:    AND2
* View Name:    schematic
************************************************************************

.SUBCKT AND2 IN<0> IN<1> OUT VDD VSS
*.PININFO IN<0>:I IN<1>:I OUT:O VDD:B VSS:B
XNAND IN<0> IN<1> net1 VDD VSS / NAND2
XI0 net1 OUT VDD VSS / INV_2_4
.ENDS

************************************************************************
* Library Name: ECE555
* Cell Name:    XOR2
* View Name:    schematic
************************************************************************

.SUBCKT XOR2 IN<0> IN<1> OUT VDD VSS
*.PININFO IN<0>:I IN<1>:I OUT:O VDD:B VSS:B
MMM12 VDD xor OUT VDD pmos_rvt w=1.62E-07 l=2E-08 nfin=6
MMM0 net045 IN<0> VDD VDD pmos_rvt w=5.4E-08 l=2E-08 nfin=2
MMM9 xor net045 VDD VDD pmos_rvt w=8.1E-08 l=2E-08 nfin=3
MMM1 net045 IN<1> VDD VDD pmos_rvt w=5.4E-08 l=2E-08 nfin=2
MMM10 xor IN<1> net059 VDD pmos_rvt w=8.1E-08 l=2E-08 nfin=3
MMM11 net059 IN<0> VDD VDD pmos_rvt w=8.1E-08 l=2E-08 nfin=3
MMM13 VSS xor OUT VSS nmos_rvt w=1.62E-07 l=2E-08 nfin=6
MMM4 net049 IN<0> VSS VSS nmos_rvt w=8.1E-08 l=2E-08 nfin=3
MMM6 xor net045 net049 VSS nmos_rvt w=8.1E-08 l=2E-08 nfin=3
MMM2 net045 IN<1> net060 VSS nmos_rvt w=8.1E-08 l=2E-08 nfin=3
MMM5 net049 IN<1> VSS VSS nmos_rvt w=8.1E-08 l=2E-08 nfin=3
MMM3 net060 IN<0> VSS VSS nmos_rvt w=8.1E-08 l=2E-08 nfin=3
.ENDS

************************************************************************
* Library Name: ECE555
* Cell Name:    NOR2
* View Name:    schematic
************************************************************************

.SUBCKT NOR2 IN<0> IN<1> OUT VDD VSS
*.PININFO IN<0>:I IN<1>:I OUT:O VDD:B VSS:B
Mnmos OUT IN<1> VSS VSS nmos_rvt w=108.00n l=20n nfin=4
MM0 OUT IN<0> VSS VSS nmos_rvt w=108.00n l=20n nfin=4
MM1 OUT IN<1> net2 VDD pmos_rvt w=54.0n l=20n nfin=2
Mpmos net2 IN<0> VDD VDD pmos_rvt w=54.0n l=20n nfin=2
.ENDS

************************************************************************
* Library Name: ECE555
* Cell Name:    OR2
* View Name:    schematic
************************************************************************

.SUBCKT OR2 IN<0> IN<1> OUT VDD VSS
*.PININFO IN<0>:I IN<1>:I OUT:O VDD:B VSS:B
XI0 IN<0> IN<1> net12 VDD VSS / NOR2
XI1 net12 OUT VDD VSS / INV_2_4
.ENDS

************************************************************************
* Library Name: ECE555
* Cell Name:    ADD1
* View Name:    schematic
************************************************************************

.SUBCKT ADD1 CIN COUT IN<0> IN<1> SUM VDD VSS
*.PININFO CIN:I IN<0>:I IN<1>:I COUT:O SUM:O VDD:B VSS:B
XI1 IN<0> IN<1> net2 VDD VSS / AND2
XI0 net1 CIN net3 VDD VSS / AND2
XI3 net1 CIN SUM VDD VSS / XOR2
XI2 IN<0> IN<1> net1 VDD VSS / XOR2
XI4 net3 net2 COUT VDD VSS / OR2
.ENDS

************************************************************************
* Library Name: ECE555
* Cell Name:    ADD3
* View Name:    schematic
************************************************************************

.SUBCKT ADD3 CIN COUT IN_0<2> IN_0<1> IN_0<0> IN_1<2> IN_1<1> IN_1<0> SUM<2> 
+ SUM<1> SUM<0> VDD VSS
*.PININFO CIN:I IN_0<2>:I IN_0<1>:I IN_0<0>:I IN_1<2>:I IN_1<1>:I IN_1<0>:I 
*.PININFO COUT:O SUM<2>:O SUM<1>:O SUM<0>:O VDD:B VSS:B
XI2 net12 COUT IN_0<2> IN_1<2> SUM<2> VDD VSS / ADD1
XI0 net13 net12 IN_0<1> IN_1<1> SUM<1> VDD VSS / ADD1
XI1 CIN net13 IN_0<0> IN_1<0> SUM<0> VDD VSS / ADD1
.ENDS

************************************************************************
* Library Name: ECE555
* Cell Name:    ADD2
* View Name:    schematic
************************************************************************

.SUBCKT ADD2 CIN COUT IN_0<1> IN_0<0> IN_1<1> IN_1<0> SUM<1> SUM<0> VDD VSS
*.PININFO CIN:I IN_0<1>:I IN_0<0>:I IN_1<1>:I IN_1<0>:I COUT:O SUM<1>:O 
*.PININFO SUM<0>:O VDD:B VSS:B
XI1 CIN net2 IN_0<0> IN_1<0> SUM<0> VDD VSS / ADD1
XI0 net2 COUT IN_0<1> IN_1<1> SUM<1> VDD VSS / ADD1
.ENDS

************************************************************************
* Library Name: ECE555
* Cell Name:    INV
* View Name:    schematic
************************************************************************

.SUBCKT INV IN OUT VDD VSS
*.PININFO IN:I OUT:O VDD:B VSS:B
MM0 OUT IN VSS VSS nmos_rvt w=81.0n l=20n nfin=3
MM1 OUT IN VDD VDD pmos_rvt w=81.0n l=20n nfin=3
.ENDS

************************************************************************
* Library Name: ECE555
* Cell Name:    MUX
* View Name:    schematic
************************************************************************

.SUBCKT MUX IN<2> IN<1> IN<0> OUT<2> OUT<1> OUT<0> VDD VSS
*.PININFO IN<2>:I IN<1>:I IN<0>:I OUT<2>:O OUT<1>:O OUT<0>:O VDD:B VSS:B
XI1 IN<1> net4 OUT<0> VDD VSS / AND2
XI0 net4 IN<0> OUT<1> VDD VSS / AND2
XI3 VDD OUT<2> VDD VSS / INV
XI2 IN<2> net4 VDD VSS / INV
.ENDS

************************************************************************
* Library Name: ECE555
* Cell Name:    MULTIPLIER
* View Name:    schematic
************************************************************************

.SUBCKT MULTIPLIER VDD VSS W<1> W<0> X<1> X<0> Y<1> Y<0>
*.PININFO W<1>:I W<0>:I X<1>:I X<0>:I Y<1>:O Y<0>:O VDD:B VSS:B
XI14 net1 Y<0> Y<1> VDD VSS / AND2
XI13 X<0> W<0> Y<0> VDD VSS / AND2
XI15 X<1> W<1> net1 VDD VSS / XOR2
.ENDS

************************************************************************
* Library Name: ECE555
* Cell Name:    NEURON
* View Name:    schematic
************************************************************************

.SUBCKT NEURON CIN_0 CIN_1 COUT VDD VSS W0_0<1> W0_0<0> W1_0<1> W1_0<0> 
+ W2_0<2> W2_0<1> W2_0<0> X_0<1> X_0<0> X_1<1> X_1<0> Z<2> Z<1> Z<0>
*.PININFO CIN_0:I CIN_1:I W0_0<1>:I W0_0<0>:I W1_0<1>:I W1_0<0>:I W2_0<2>:I 
*.PININFO W2_0<1>:I W2_0<0>:I X_0<1>:I X_0<0>:I X_1<1>:I X_1<0>:I COUT:O 
*.PININFO Z<2>:O Z<1>:O Z<0>:O VDD:B VSS:B
XI0 CIN_1 COUT IN_0<2> IN_0<1> IN_0<0> W2_0<2> W2_0<1> W2_0<0> net1<0> net1<1> 
+ net1<2> VDD VSS / ADD3
XI1 CIN_0 IN_0<2> UP_MULT<1> UP_MULT<0> BOTTOM_MULT<1> BOTTOM_MULT<0> IN_0<1> 
+ IN_0<0> VDD VSS / ADD2
XI2 net1<0> net1<1> net1<2> Z<2> Z<1> Z<0> VDD VSS / MUX
XI4 VDD VSS W1_0<1> W1_0<0> X_1<1> X_1<0> BOTTOM_MULT<1> BOTTOM_MULT<0> / 
+ MULTIPLIER
XI3 VDD VSS W0_0<1> W0_0<0> X_0<1> X_0<0> UP_MULT<1> UP_MULT<0> / MULTIPLIER
.ENDS

